US05081142
a) 2-Chloro-2,2-di-(4-fluorophenyl)-acetonitrile
4.4 g (20 mmol) of 4,4'-difluorobenzophenone were dissolved in 50 ml of CH2Cl2 under nitrogen gas. 2.7 ml (24 mmol) of titanium tetrachloride and 2.7 ml (20 mmol) of trimethylsilyl cyanide were then added in succession at 0° C. After 30 minutes, the mixture was allowed to warm up to room temperature and was stirred for a further 24 hours. Aqueous NaHCO3 solution was added, after which the mixture was extracted with ether. The ether phase was dried over Na2SO4. The product was obtained in the form of a yellow oil.

reactant | 4,4'-difluorobenzophenone | 20 mmol, 4.4 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | trimethylsilyl cyanide | 20 mmol, 2.7 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 24 mmol, 2.7 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2-Chloro-2,2-di-(4-fluorophenyl)-acetonitrile | ClC(C#N)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C14H8ClF2N
